US07732448B2
The mixture of 2.6 g of tetramethylglutaric acid and 8.3 g of urea was stirred for 10 hours at 160° C. Into the reaction mixture was added water at 100° C., and the mixture was cooled to near room temperature. The mixture was extracted with ethyl acetate three times. The organic layers were washed with a saturated sodium chloride aqueous solution, dried over anhydrous magnesium sulfate and concentrated. The residue was subjected to silica gel column chromatography to obtain 2.3 g of 3,3,5,5-tetramethylpiperidin-2,6-dione.

reactant | tetramethylglutaric acid | 2.6 g | CC(CC(C(=O)O)(C)C)(C(=O)O)C | C9H16O4
reactant | urea | 8.3 g | NC(=O)N | CH4N2O
solvent | water | O | H2O
product | 3,3,5,5-tetramethylpiperidin-2,6-dione | 2.3 g | CC1(C(NC(C(C1)(C)C)=O)=O)C | C9H15NO2
